US07425568B2
2-[2-(4-Trifluoromethylphenyl)chroman-6-yloxy]-5-nitropyridine was prepared as described for 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine in Example 1(b) starting from 605 mg of 2-(4-trifluoromethylphenyl)chroman-6-ol. The product was purified column chromatography using 1.5% ethyl acetate in toluene as an eluant and then crystallised from a mixture of 2-propanol and acetone. 1H NMR (400 MHz, d6-DMSO) δ: 9.04 (d, 1H, J 2.9 Hz), 8.60 (dd, 1H, J 9.1, 2.9 Hz), 7.79 (d, 2H, J 8.2 Hz), 7.70 (d, 1H, J 8.2 Hz), 7.21 (d, 1H, J 9.1 Hz), 7.01 (dd, 1H, J 8.7, 2.7 Hz), 6.98 (d, 1H, J 2.7 Hz), 6.95 (d, 1H, 8.7 Hz), 5.29 (dd, 1H, J 10.1, 2.0 Hz), 3.00 (ddd, 1H, J −16.9, 10.1, 5.8 Hz), 2.4 (ddd, 1H, J −16.9, 8.4, 4.5 Hz), 2.24 (m, 1H), 1.99 (m, 1H).

reactant | 5-nitro-2-(2-phenylchroman-6-yloxy)pyridine | [N+](=O)([O-])C=1C=CC(=NC1)OC=1C=C2CCC(OC2=CC1)C1=CC=CC=C1 | C20H16N2O4
reactant | 2-(4-trifluoromethylphenyl)chroman-6-ol | 605 mg | FC(C1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)O)(F)F | C16H13F3O2
product | 2-[2-(4-Trifluoromethylphenyl)chroman-6-yloxy]-5-nitropyridine | FC(C1=CC=C(C=C1)C1OC2=CC=C(C=C2CC1)OC1=NC=C(C=C1)[N+](=O)[O-])(F)F | C21H15F3N2O4
